US07141669B2
Preparation of 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one (2A-1)
A mixture of 3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-ol (I-2A-1b: 1.20 g, 3.36 mmol), 2-iodo-1,1,1-trifluoroethane (705 mg, 3.36 mmol) and Cs2CO3 (2.19 g, 6.72 mmol) in DMF (20 ml) was heated at 100° C. for 17 hours. The reaction mixture was cooled to room temperature and diluted with EtOAc. The organic solution was washed with saturated aqueous NaCl, dried, and concentrated in vacuo. The crude residue was purified via a Shimadzu HPLC system using a Waters XTERRA C18 50×50 mm column and a mixture of two solvent systems (0.1% NH4OH/CH3CN and H2O/0.1% NH4OH) to give the title compound 2A-1 (300 mg, 20%) as an amorphous solid: +ES MS (M+1) 439.1; 1H NMR (CDCl3) δ 7.87 (s, 1H), 7.54–7.30 (m, 8H), 4.7 (m, 2H).

reactant | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-ol | 3.36 mmol, 1.20 g | ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN=C2O)C2=C(C=CC=C2)Cl | C17H10Cl2N4O
reactant | 2-iodo-1,1,1-trifluoroethane | 3.36 mmol, 705 mg | ICC(F)(F)F | C2H2F3I
reactant | Cs2CO3 | 6.72 mmol, 2.19 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one | ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN(C2=O)CC(F)(F)F)C2=C(C=CC=C2)Cl | C19H11Cl2F3N4O
